2125-08-04 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2125-8-3**] 12:00 PM
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-8-3**] 08:06 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2125-8-3**] 06:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-4**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 69 (68 - 114) bpm
   BP: 97/74(79) {91/61(72) - 128/86(114)} mmHg
   RR: 10 (10 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 77 kg
   Height: 65 Inch
             Total In:
                                                                  2,840 mL
                                                                  1,074 mL
   PO:
             TF:
   IVF:
                                                                  1,540 mL
                                                                  1,074 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,840 mL
                                                                    724 mL
   Respiratory support
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 498 (396 - 706) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   SpO2: 97%
   ABG: 7.29/76.[**Numeric Identifier 128**]/108/39/6
   Ve: 6.8 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   258 K/uL
   10.2 g/dL
   88 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.2 mEq/L
   9 mg/dL
   102 mEq/L
   145 mEq/L
   34.2 %
   10.2 K/uL
        [image002.jpg]
                             [**2125-8-3**]  07:52 PM
                             [**2125-8-4**]  04:54 AM
   WBC
   10.2
   Hct
   34.2
   Plt
   258
   Cr
   0.5
   TCO2
   38
   Glucose
   88
   Other labs: Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   52 y/o M with severe COPD on home O2 s/p trach, tracheomalacia s/p
   tracheal stent, and right phrenic nerve dysfunction presented with
   acute respiratory distress.
   .
   Plan:
   .
   # Respiratory Failure: The patient likely has some mild chemical
   irritation from blood inhalation and manipulation of his tracheostomy
   yesterday resulting in easily triggered bronchospasm. He has very
   little reserve so likely very small disruptions can initiate
   exacerbation. He is unlikely to have an acute pulmonary infection at
   this time. Currently, he is doing well on MMV which is an appropriate
   mode given his periods of apnea (likely due to pain meds), but we will
   need to calculate the auto-peep and make sure that his peep is
   appropriate.
   - treat for COPD exacerbation with IV steroids, frequent MDI's, rest on
   trach overnight before attempting wean, and azithromycin.
   - pain control will help with preventing hyperventilation and
   hyperinflation/auto-peep
   - IP is aware that patient is here and will come by to take a look at
   trach
   - No need for meropenem, patient is likely colonized with multi-drug
   resistant pseudomonas, but not currently actively infected
   - wean gently tomorrow as tolerated
   .
   # Cellulitis: patient's right lower extremity is usually slightly more
   edematous. There is evidence of stasis. The erythema is worse per the
   patient, has been treated for MRSA cellulitis in the past.
   - vanco 1g q12 x 7-10 days
   .
   # DM2: patient is on a lispro sliding scale as an outpatient. Continue
   sliding scale here and monitor fingersticks.
   # FEN:  NPO for now. In the morning if we can wean, perhaps we can
   advance diet at that time. replete lytes prn. IVF as needed for BP
   support.
   .
   # Access: 2 piv.
   .
   # PPx: No heparin products given documented (albeit unclear) allergy
   history. Venodynes can be placed on LLE only.
   .
   # Code: Full
   .
   # Dispo: Pending vent wean.
   .
   # Comm: [**Name (NI) 53**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2125-8-3**] 12:15 PM
   18 Gauge - [**2125-8-3**] 12:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-08-04 20:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2125-8-3**] 12:00 PM
   Remains mechanically ventilated overnight, now on IPS mode.  Indicates
   feeling improved, and less anxious.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-8-3**] 08:06 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**5-15**] Moderate
   Pain location: Back (Chronic)
   Flowsheet Data as of  [**2125-8-4**] 08:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 83 (59 - 93) bpm
   BP: 111/71(81) {93/33(56) - 127/80(91)} mmHg
   RR: 17 (8 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 77 kg
   Height: 65 Inch
             Total In:
                                                                  2,840 mL
                                                                  1,199 mL
   PO:
             TF:
   IVF:
                                                                  1,540 mL
                                                                  1,199 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    900 mL
   Urine:
   900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,840 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 582 (421 - 706) mL
   RR (Set): 10
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   SpO2: 95%
   ABG: ///39/
   Ve: 4.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Tracheotomy
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial:
   , No(t) Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): person, place, time, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.2 g/dL
   258 K/uL
   88 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.2 mEq/L
   9 mg/dL
   102 mEq/L
   145 mEq/L
   34.2 %
   10.2 K/uL
        [image002.jpg]
                             [**2125-8-3**]  07:52 PM
                             [**2125-8-4**]  04:54 AM
   WBC
   10.2
   Hct
   34.2
   Plt
   258
   Cr
   0.5
   TCO2
   38
   Glucose
   88
   Other labs: Ca++:0.0, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   COPD exacerbation, aspiration.
   RESPIRATORY FAILURE-- Multifactorial, but predominantly COPD
   exacerbation precipitated by aspiration.  Good progress, now improved.
   Responding to mechanical ventilation and meds.  Work towards SBT and
   trach collar as tolerated.
   COPD -- exacerbation precipited by aspiration.  Continue meds, taper
   steroids to baseline dose.
   HYPOTENSION -- Likely hypovolemia.  Use prn iv fluid bolus to maintain
   MAP > 60 mmHg
   Right LE CELLULITIS -- iv vancomycin
   IV ACCESS -- Place PICC for iv access (iv antibiotics)
   HEPARIN ALLERGY -- avoid heparin
   BACK PAIN -- Chronic.  Continue pain meds, optimize dose.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-8-4**] 02:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2125-08-05 07:49:00 Physician Resident Progress Note
Chief Complaint: respiratory distress; LE cellulitis
   24 Hour Events:
   PICC line placed.
   Pt transitioned from vent to trach collar.  Pt a single episode of
   respiratory distress last night (7hrs after turning off vent) was given
   MDI tx and placed back on vent (pressure support [**5-14**]).   Pt is
   currently back on trach collar
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-8-4**] 08:00 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2125-8-5**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-5**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 65 (59 - 117) bpm
   BP: 95/66(73) {89/15(45) - 145/92(105)} mmHg
   RR: 12 (8 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 77 kg
   Height: 65 Inch
             Total In:
                                                                  1,440 mL
                                                                     77 mL
   PO:
             TF:
   IVF:
                                                                  1,440 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    150 mL
   Urine:
                                                                  1,250 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    190 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 537 (218 - 582) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///35/
   Ve: 7.3 L/min
   Physical Examination
   Gen: NAD, anxious (resolved with suctioning)
   CV: RRR, no M/R/G
   Lungs: diffuse coarse rhonchi, mild-mod end expiratory wheezing,
   nonlabored breathing
   Abd: soft, +bs, ntnd
   Ext: 2+ distal pulses, no edema, bilateral erythema and warmth
   circumferentially around both shins, does not extend to feet or knees,
   no apparent lesions, tender to palpation
   Labs / Radiology
   265 K/uL
   10.3 g/dL
   84 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.1 mEq/L
   11 mg/dL
   102 mEq/L
   139 mEq/L
   34.0 %
   11.2 K/uL
        [image002.jpg]
                             [**2125-8-3**]  07:52 PM
                             [**2125-8-4**]  04:54 AM
                             [**2125-8-5**]  03:45 AM
   WBC
   10.2
   11.2
   Hct
   34.2
   34.0
   Plt
   258
   265
   Cr
   0.5
   0.5
   TCO2
   38
   Glucose
   88
   84
   Other labs: Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Microbiology:
   [**2125-8-3**] blood cx: pending
   Assessment and Plan
   52 y/o M with severe COPD on home O2 s/p trach, tracheomalacia s/p
   tracheal stent, and right phrenic nerve dysfunction a/w resp failure
   requiring vent support.
   # resp failure
 chemical pneumonitis from aspirated blood during IP
   procedure likely led to bronchospasm - acute inciting event resolved
   although remains wheezy, probably at b/l; ABG reflects
   chronically-compensated resp acidosis; no fever, leukocytosis to
   suggest bacterial infection
   -continue trach collar and q4h MDIs
   -switch solumedrol 80 mg IV daily back to home med prednisone 10mg po
   daily
   -attempt to achieve adeq. pain control to avoid anxiety, tachypnea,
   hyperinflation
   -significant anxiety component to respiratory distress; will restart
   Celexa (home med)
   -start low dose clonazepam 0.5 mg po BID.
   .
   # RLE cellulitis
 h/o MRSA, no progression over night
   - PICC line placed yesterday
   - cont vanco 1g q12 x 7 days; Last day [**2125-8-9**]
   .
   #Chronic back pain
 adeq. control
   -dilaudid 2 mg IV q4h/PRN
   .
   # DM2: cont. outpt lispro SS
   # FEN: will d/c D5
 NS 50cc/hr; start po diet today
   # PPx: No heparin products given documented (albeit unclear) allergy
   history.
   # Code: Full
   # Dispo: to rehab on monday
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-8-4**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-08-05 10:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress/failure
   HPI:
   24 Hour Events:
 PICC LINE - START [**2125-8-4**] 02:00 PM
   Remained on mechanical ventilation overnight via trach throughout
   yesterday.  Tolerated trach collar >6 hrs --> developed anxiety and
   resumed IPS mode on ventilator .  Resumed trach collar this morning.
   Anxiety remains active.  Transiently tolerated Passe-Muir valve (able
   to communicate during rounds).
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-8-4**] 08:00 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2125-8-5**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss, Anxious
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, Tracheotomy
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Flowsheet Data as of  [**2125-8-5**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 69 (59 - 117) bpm
   BP: 101/69(76) {89/15(45) - 145/92(105)} mmHg
   RR: 14 (9 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 77 kg
   Height: 65 Inch
             Total In:
                                                                  1,556 mL
                                                                    214 mL
   PO:
             TF:
   IVF:
                                                                  1,556 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    675 mL
   Urine:
                                                                  1,250 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    306 mL
                                                                   -461 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 537 (218 - 582) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: ///35/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   No(t) Endotracheal tube, No(t) NG tube, No(t) OG tube, Tracheotomy
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Not assessed,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   265 K/uL
   84 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.1 mEq/L
   11 mg/dL
   102 mEq/L
   139 mEq/L
   34.0 %
   11.2 K/uL
        [image002.jpg]
                             [**2125-8-3**]  07:52 PM
                             [**2125-8-4**]  04:54 AM
                             [**2125-8-5**]  03:45 AM
   WBC
   10.2
   11.2
   Hct
   34.2
   34.0
   Plt
   258
   265
   Cr
   0.5
   0.5
   TCO2
   38
   Glucose
   88
   84
   Other labs: Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Respiratory distress, upper airway obstruction (granulation tissue
   associated with tracheotomy tube), COPD exacerbation.
   Respiratory Failure -- acute on chronic resp failure.  Underlying COPD
   (severe), granulation tissue around tracheotomy tube.  Possible
   componant of diastolic CHF.
   Fluids -- net positive fluid balance.  Concerns for diastolic
   dysfunction, will hold fluids.  [**Month (only) 60**] require net diuresis.
   Cellulitis -- chronic, improved.  iv antimicrobials (Vanco)
   Nutrition -- hope to resume PO meds now that on trach collar.
   Back pain -- chronic.  Continue pain meds.
   Anxiety
 consider low dose anxiolytyic
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-8-4**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2125-08-06 08:01:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress, bilateral  LE cellulitis
   24 Hour Events:
   Pt on trach collar.
   C/o continued intermittent SOB and chest tightness overnight. Appears
   close to baseline.
   Still reports that Dilaudid infusion is "too slow" for his chronic back
   pain. States he is willing to transition this afternoon to PO
   Oxycodone.
   Reports that right LE is more erythematous than yesterday, but not
   significantly painful.
   Scheduled for discharge rehab to [**First Name4 (NamePattern1) 3811**] [**Last Name (NamePattern1) **] today, but pt does not
   feel ready to go from a respiratory standpoint, and requests to go
   tomorrow.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin (Day [**4-16**])- [**2125-8-5**] 08:10 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2125-8-6**] 07:35 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2125-8-6**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 89 (67 - 118) bpm
   BP: 117/76(84) {96/65(61) - 124/79(89)} mmHg
   RR: 21 (14 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 77 kg
   Height: 65 Inch
             Total In:
                                                                  1,554 mL
                                                                     80 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                    634 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    200 mL
   Urine:
                                                                  1,455 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     99 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 92%
   ABG: ///34/
   Physical Examination
   Gen: awake in chair, anxious
   HEENT: mmm, no LAD
   CV: RRR, no m/r/g S1 S2 present
   LUNGS: mild expiratory wheezes and rhonchi bilaterally, mild bibasilar
   crackles
   ABD: soft, NTND, bs+
   EXT: large patch erythema right lower leg anteriorly, smaller patch on
   left lower leg; mildly TTP, predominantly flat, no visible sores or
   drainage
   Labs / Radiology
   249 K/uL
   10.8 g/dL
   94 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.7 mEq/L
   12 mg/dL
   101 mEq/L
   142 mEq/L
   34.5 %
   10.8 K/uL
        [image002.jpg]
   CXR [**2125-8-6**]:  Portable AP chest radiograph was compared to [**2125-8-5**].
   The lung volumes remain very low. The bibasal opacities are consistent
   with
   atelectasis that might be related to low lung volumes. The
   cardiomediastinal
   silhouette is unchanged. The tracheostomy is at the midline with its
   tip
   terminating approximately 5 cm above the carina. The right PICC line
   tip is
   most likely in the proximal right atrium but precise evaluation is
   difficult
   due to low lung volumes. Small bilateral pleural effusion cannot be
   excluded.
   No overt pulmonary edema is demonstrated but engorged perihilar vessels
   are
   and again might be related to low lung volumes. No pneumothorax.
                             [**2125-8-3**]  07:52 PM
                             [**2125-8-4**]  04:54 AM
                             [**2125-8-5**]  03:45 AM
                             [**2125-8-6**]  04:08 AM
   WBC
   10.2
   11.2
   10.8
   Hct
   34.2
   34.0
   34.5
   Plt
   258
   265
   249
   Cr
   0.5
   0.5
   0.5
   TCO2
   38
   Glucose
   88
   84
   94
   Other labs: Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL ([**2125-8-6**])
   Assessment and Plan
   52 y/o M with severe COPD on home O2 s/p trach, tracheomalacia s/p
   tracheal stent, and right phrenic nerve dysfunction a/w resp failure
   requiring vent support.
   # Resp failure
 chemical pneumonitis from aspirated blood during IP
   procedure likely led to bronchospasm - acute inciting event resolved
   although remains wheezy, probably at b/l; ABG reflects
   chronically-compensated resp acidosis; no fever, leukocytosis to
   suggest bacterial infection
   -continue trach collar and q4h MDIs
   -Switched from IV Solumedrol 80 to PO Prednisone 60 yesterday. Will
   taper to PO Prednisone 40 daily tomorrow, and continue after discharge.
   Pt to follow-up with PCP for continued slow taper.
   -Attempt to achieve adeq. pain control to avoid anxiety, tachypnea,
   hyperinflation. Will transition from IV Dilaudid to PO Oxycodone 5-15mg
   q4 PRN pain.
   -Significant anxiety component to respiratory distress; on Celexa (home
   med.)
   .
   # RLE cellulitis
 h/o MRSA, now bilateral, with R>L.
   - PICC line in place ([**8-4**])
   - Continue vanco 1g q12 x 7 days (Day [**4-16**]) ; Last day [**2125-8-9**]
   .
   #Chronic back pain
 hx chronic upper back pain [**2-10**] old fracture.
   Adequate control with Dilaudid.
   -Will begin transition to PO meds in anticipation of transfer to rehab.
   Will start Oxycodone 5-15mg PO q3h PRN pain, and d/c dilaudid 2 mg IV
   q4h/PRN.
   .
   # DM2: cont. outpt lispro SS
   # FEN: tolerating PO diet.
   # PPx: No heparin products given documented (albeit unclear) allergy
   history.  Lactulose PRN constipation.
   # Code: Full
   # Dispo: to rehab ([**First Name4 (NamePattern1) 3811**] [**Last Name (NamePattern1) **]) tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-8-4**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-08-06 11:51:00 Physician Attending Progress Note
Chief Complaint: resp failure, COPD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52M with severe copd requiring trach, also tracheomalacia s/p stent,
   admitted to icu with bronchospasm after manipulation of stent
   [**41**] Hour Events:
   remain on trach collar for > 24hrs but intermittently tachypneic;
   improved but not back at baseline
   talking again with new valve
   cellulitis on RLE improving
   waiting for pulm rehab.
   Continues to complain about chronic back pain and need for opiates
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-8-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2125-8-6**] 07:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Flowsheet Data as of  [**2125-8-6**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 105 (67 - 118) bpm
   BP: 117/77(87) {96/65(61) - 134/81(94)} mmHg
   RR: 16 (14 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 77 kg
   Height: 65 Inch
             Total In:
                                                                  1,554 mL
                                                                    675 mL
   PO:
                                                                    920 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    634 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    625 mL
   Urine:
                                                                  1,455 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     99 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 6,000 (6,000 - 6,000) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 92%
   ABG: ///34/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial:: ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ), decreased at
   bases Prolonged expiratory phase with I/E=[**1-11**] and soft expiratory
   wheeze
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Erythema and warmth left lower leg > right lower leg. Well
   demarcated; no raised edge, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   249 K/uL
   94 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.7 mEq/L
   12 mg/dL
   101 mEq/L
   142 mEq/L
   34.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2125-8-3**]  07:52 PM
                             [**2125-8-4**]  04:54 AM
                             [**2125-8-5**]  03:45 AM
                             [**2125-8-6**]  04:08 AM
   WBC
   10.2
   11.2
   10.8
   Hct
   34.2
   34.0
   34.5
   Plt
   258
   265
   249
   Cr
   0.5
   0.5
   0.5
   TCO2
   38
   Glucose
   88
   84
   94
   Other labs: Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   52M with severe copd on trach, also with tracheomalacia, admitted to
   micu with respiratory distress after manipulation of tracheal stent.
   Etiology of respiratory decompensation is likley due to bronchospasm
   from upper airway debris from trach manipulation. Pt also intially
   treated for COPD exacerbation with increase on chronic prednisone and
   abx, but abx stopped because on reassessment there was little evidence
   of bronchitis. The symptoms have imrpved dramatically and patient has
   alsmost returnt to his baseline. Other acive issues include acute on
   chronic back pain, that is also improving while he is being
   transitioned from IV to PO pain meds:
   Respiratory Failure:
   -continue prednisone with a very slow taper
   -continue trach collar
   [**Hospital 3804**] rehab tomorrow
   Cellulitis:
   -to complete 7 days course of vancomycin
   Back Pain: chronic, exacerbated but laying in bed for several day; also
   element of med seeking
   -transition to home regimen of PO opiates
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-8-4**] 02:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes

2125-08-07 06:54:00 Physician Resident Progress Note
Chief Complaint: Dyspnea, chronic back pain
   24 Hour Events:
   Yesterday, pt had been transitioned to PO Oxycodone (pt's home
   medication) but pt c/o continued chronic back pain, and continued to
   request IV Dilaudid for breakthrough pain. Pt received 1 dose of
   Dilaudid 2mg IV x 1 in the p.m., and did not request any addl
   medications through the night.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-8-6**] 07:54 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2125-8-6**] 03:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-7**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 87 (67 - 110) bpm
   BP: 103/72(79) {103/56(73) - 134/88(98)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 77 kg
   Height: 65 Inch
             Total In:
                                                                  1,780 mL
                                                                     69 mL
   PO:
                                                                  1,140 mL
             TF:
   IVF:
                                                                    640 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    400 mL
   Urine:
                                                                  2,175 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -395 mL
                                                                   -332 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 6,000 (6,000 - 6,000) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 93%
   ABG: ////
   Physical Examination
   Labs / Radiology
   249 K/uL
   10.8 g/dL
   94 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.7 mEq/L
   12 mg/dL
   101 mEq/L
   142 mEq/L
   34.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2125-8-3**]  07:52 PM
                             [**2125-8-4**]  04:54 AM
                             [**2125-8-5**]  03:45 AM
                             [**2125-8-6**]  04:08 AM
   WBC
   10.2
   11.2
   10.8
   Hct
   34.2
   34.0
   34.5
   Plt
   258
   265
   249
   Cr
   0.5
   0.5
   0.5
   TCO2
   38
   Glucose
   88
   84
   94
   Other labs: Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-8-4**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-08-07 11:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, respiratory failure, hypoxemia,
   COPD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Doing well on trach mask. Continues to complain of chronic chest wall
   pain.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-8-7**] 08:12 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2125-8-6**] 03:40 PM
   Other medications:
   Atrovent, protonix, celexa, insulin, albuterol, prednisone, oxycodone
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-7**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 75 (66 - 110) bpm
   BP: 105/72(79) {98/56(73) - 130/96(101)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 77 kg
   Height: 65 Inch
             Total In:
                                                                  1,780 mL
                                                                    542 mL
   PO:
                                                                  1,140 mL
                                                                    230 mL
   TF:
   IVF:
                                                                    640 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    700 mL
   Urine:
                                                                  2,175 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -395 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 6,000 (6,000 - 6,000) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 92%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, No(t) OG tube,
   Trach mask
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : I/E=[**1-11**], Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, Cellulitis improved on left. Stable on right
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   249 K/uL
   94 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.7 mEq/L
   12 mg/dL
   101 mEq/L
   142 mEq/L
   34.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2125-8-3**]  07:52 PM
                             [**2125-8-4**]  04:54 AM
                             [**2125-8-5**]  03:45 AM
                             [**2125-8-6**]  04:08 AM
   WBC
   10.2
   11.2
   10.8
   Hct
   34.2
   34.0
   34.5
   Plt
   258
   265
   249
   Cr
   0.5
   0.5
   0.5
   TCO2
   38
   Glucose
   88
   84
   94
   Other labs: Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   1) Respiratory failure
   2) COPD
   3) Tracheomalacia
   Patient stable on trach mask. Oxygenation adequate. Cellulitis
   improved. Complaining about having trouble "waking up." No
   physiological abnormalities noted during sleep. Patient to go to rehab
   today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-8-4**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 25 minutes